US05198208
1,13-Bisbenzyloxy-5,9-bisbenzyloxymethyl-4,7,10-triazatridecane (0.37 g, 0.6 mmol) was dissolved in 2-propanol (5 ml). A solution of bromoacetic acid (0.33 g, 2.4 mmol), lithium hydroxide (0.10 g 2.4 mmol) in water (20 ml) was added. The temperature was gradually increased to reflux over five hours and kept at reflux for four hours. The reaction mixture was kept in the alkaline range during the alkylation. The solution was neutralised with concentrated hydrobromic acid and chromatographed on silica. N4, N7, N10 -Triscarboxymethyl-1,13-bisbenzyloxy-5,9-bisbenzyloxymethyl-4,7,10-triazatridecane was isolated as a white solid. Yield 0.30 g (70%) m.p. 150° C. The structure was confirmed by 1H NMR and 13C NMR.

reactant | 1,13-Bisbenzyloxy-5,9-bisbenzyloxymethyl-4,7,10-triazatridecane | 0.6 mmol, 0.37 g | C(C1=CC=CC=C1)OCCCNC(CNCC(NCCCOCC1=CC=CC=C1)COCC1=CC=CC=C1)COCC1=CC=CC=C1 | C40H53N3O4
reactant | bromoacetic acid | 2.4 mmol, 0.33 g | BrCC(=O)O | C2H3BrO2
reactant | lithium hydroxide | 2.4 mmol, 0.10 g | [OH-].[Li+]
reactant | hydrobromic acid | Br | BrH
reactant | 2-propanol | 5 ml | CC(C)O | C3H8O
solvent | water | 20 ml | O | H2O
product | N4, N7, N10 -Triscarboxymethyl-1,13-bisbenzyloxy-5,9-bisbenzyloxymethyl-4,7,10-triazatridecane | C(=O)(O)CN(CCCOCC1=CC=CC=C1)C(CN(CC(N(CCCOCC1=CC=CC=C1)CC(=O)O)COCC1=CC=CC=C1)CC(=O)O)COCC1=CC=CC=C1 | C46H59N3O10
